US05144045
2-(3,3 Difluoro-2-methylenenonadecyl)-1,3-propanediol
To a slurry of 250 mg of lithium aluminum hydride in 10 ml of ether, cooled to 0° C. is added dropwise a solution of 1.48 g of ethyl (3,3-difluoro-2-methylene-nonadecyl)propanoate in 10 ml of ether followed by warming to ambient temperature, heating at reflux for 3 hours, then allowing to cool to ambient temperature. The reaction mixture is washed with dilute hydrochloric acid, water and dilute sodium bicarbonate, dried and evaporated to a gum which is purified on silica gel using 40-60% ethyl acetate:hexanes. The fractions containing product are collected, evaporated and the residue crystallized from hexane giving 1.04 g of the desired product.

reactant | lithium aluminum hydride | 250 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl (3,3-difluoro-2-methylene-nonadecyl)propanoate | 1.48 g | FC(C(CC(C(=O)OCC)C)=C)(CCCCCCCCCCCCCCCC)F | C25H46F2O2
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | ether | 10 ml | CCOCC | C4H10O
product | 2-(3,3 Difluoro-2-methylenenonadecyl)-1,3-propanediol | FC(C(CC(CO)CO)=C)(CCCCCCCCCCCCCCCC)F | C23H44F2O2
